US05527819
Step D: 2-(2-Benzoxazol-2-ylethyl)-3-phenylthioindole
A solution of trans-2-(2-benzoxazol-2-ylethenyl)-3-phenylthioindole (0.420 g, 1.14 mmol) in 1:1 methanol/tetrahydrofuran (250 mL) was stirred under 1 atmosphere of hydrogen in the presence of 10% palladium on charcoal (100 mg). Additional catalyst was added as needed to drive the reaction to completion. The catalyst was removed by filtration, and the filtrate concentrated in vacuo. The resulting solid was triturated with 10% ethyl acetate in hexane and collected by filtration to afford the title compound, mp 192°-193° C. Anal. calc. for C23H18N2OS: C, 72.80; H, 5.04; N, 7.38. Found: C, 72.78; H, 4.95; N, 7.45.

reactant | trans-2-(2-benzoxazol-2-ylethenyl)-3-phenylthioindole | 1.14 mmol, 0.420 g | O1C(=NC2=C1C=CC=C2)/C=C/C=2NC1=CC=CC=C1C2SC2=CC=CC=C2 | C23H16N2OS
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
solvent | methanol tetrahydrofuran | 250 mL | CO.O1CCCC1
product | 2-(2-Benzoxazol-2-ylethyl)-3-phenylthioindole | O1C(=NC2=C1C=CC=C2)CCC=2NC1=CC=CC=C1C2SC2=CC=CC=C2 | C23H18N2OS
